US08212048B2
A Teflon-coated magnetic stirring rod was placed in a 4 mL pressure proof screw vial, dried with heating, then, N2 gas was allowed to flow through the reaction apparatus for several minutes to purge the whole reaction apparatus with nitrogen. The reaction vessel was left to cool to room temperature, then, under a nitrogen flow, into the reaction vessel was added Ru(cod)(cot) complex (0.05 mmol, 15.08 mg), 2-o-tolylpyridine (1 mmol, 169 mg), styryl acetate (3 mmol, 486.6 mg) and dioxane (1.0 mL), and the reaction vessel was sealed. The mixture was heated at 100° C. by an oil bath and reacted for 40 hours. 40 hours after, the reaction solution was left to cool to room temperature, then, an internal standard was added, and the product was quantified by gas chromatography. Isolation of the product was carried out by silica gel column chromatography (i.d.=30 mm; length=170-250 mm; hexane:EtOAc:Et3N=8:1:0.1; 25 mL each). A subject substance 2-(2-methyl-6-styrylphenyl)-pyridine was obtained with a yield of 97%.

reactant | 2-o-tolylpyridine | 1 mmol, 169 mg | C1(=C(C=CC=C1)C1=NC=CC=C1)C | C12H11N
reactant | styryl acetate | 3 mmol, 486.6 mg | C(C)(=O)OC=CC1=CC=CC=C1 | C10H10O2
reactant | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | Et3N | CCN(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2-methyl-6-styrylphenyl)-pyridine | yield of 97% | CC1=C(C(=CC=C1)C=CC1=CC=CC=C1)C1=NC=CC=C1 | C20H17N
